US04623659
Four and three-tenths grams of pentamethoxybenzonitrile were refluxed in 12.5 g. of anhydrous aluminum chloride and 125 ml. of toluene for three hours after which time the suspension was poured into a mixture of 50 ml. of 12N aqueous hydrochloric acid and 200 g. of ice. The toluene layer was separated and the product recovered from the aqueous layer by filtration. Recrystallization from an ethyl acetate/toluene solvent mixture yielded pentahydroxybenzonitrile decomposing at 238° C. with a prior slight decomposition at 220° C.; yield =66%.

reactant | pentamethoxybenzonitrile | COC1=C(C(=C(C(=C1C#N)OC)OC)OC)OC | C12H15NO5
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 12N | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | pentahydroxybenzonitrile | OC1=C(C(=C(C(=C1C#N)O)O)O)O | C7H5NO5
